US05922741
5-Amino-1-tert-butyl-3-(4'-chlorophenyl)pyrazole-4-carboxamide
To a solution of tert-butyl hydrazine hydrochloride (523 mg, 3.50 mmol) in ethyl alcohol (20 ml) was added powdered sodium hydroxide (168 mg, 4.20 mmol), followed by 3-(4-chlorophenyl)-2-cyano-3-methylthioacrylamide (884 mg, 3.50 mmol) and the mixture was heated at reflux for 4 h. On cooling, the solvent was removed under reduced pressure and the residue partitioned between water (80 ml) and ethyl acetate (80 ml). The aqueous layer was further extracted with ethyl acetate (2×80 ml) and the combined organic layers were washed with brine (1×100 ml), dried (MgSO4) and concentrated under reduced pressure. The residue was subjected to column chromatography (SiO2, 45-75% ethyl acetate-hexane) to afford the title compound (780 mg) after recrystallisation from methanol as a colorless solid m.p. 156°. δH (d6DMSO) 1.66 (9H, s), 5.16 (2H, br s), 5.68 (2H, br s), 7.42 (2H, dt, J 8.6, 2.1 Hz), and 7.51 (2H, dt, J 8.7, 2.1 Hz).

reactant | tert-butyl hydrazine hydrochloride | 3.50 mmol, 523 mg | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 4.20 mmol, 168 mg | [OH-].[Na+]
reactant | 3-(4-chlorophenyl)-2-cyano-3-methylthioacrylamide | 3.50 mmol, 884 mg | ClC1=CC=C(C=C1)C(=C(C(=S)N)C#N)C | C11H9ClN2S
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 5-Amino-1-tert-butyl-3-(4'-chlorophenyl)pyrazole-4-carboxamide | 780 mg | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)Cl)C(=O)N | C14H17ClN4O
